US07605171B2
Step A: 2-Amino-5-(4-bromo-3-methylphenyl)-1,2,4-thiadiazole
In an oven-dried round bottom flask, 7.0 g of 4-bromo-3-methylbenzoic acid (32.6 mmol) was dissolved in 10 mL of dichloromethane, 30 mL of dimethyl formamide was added to the solution and the resulting mixture was treated with 7.0 mL of oxalyl chloride at 50° C. for 30 min. The reaction mixture was cooled to rt and solvents were removed under reduced pressure. The residual white solids were dissolved in 50 mL of EtOAc and added over 10 minutes to a stirring biphasic system consisting of 150 mL of EtOAc, 150 mL of saturated solution of sodium bicarbonate, and 7.5 g of thiosemicarbazide (81.4 mmol). The resulting reaction mixture was allow to stir at rt for 3 h, organic layer was separated and aqueous was extracted with 2×250 mL of EtOAc. Combined organic extracts were dried over sodium sulfate and concentrated to yield a crude product, contaminated with thiosemicarbazide. This crude material was treated with 25 mL of neat sulfuric acid at rt for 30 minutes. The reaction mixture was diluted with 500 mL of ice-water mixture and basified with solid sodium hydroxide to pH>13, controlling the isotherm by an external ice-bath. The basic heterogeneous solution was extracted 3×300 mL of EtOAc, organic extracts dried over sodium sulfate and concentrated. The crude product was purified by column chromatography using Biotage 40L cartridge (eluant hexanes/EtOAc=1/1) yielding 3.7 g of the title compound: 1H NMR (500 MHZ, CDCl3) δ 2.56 (s, 3H), 5.28 (s, 2H), 7.42 (d, J=6.5, 1H), 7.44 (d, J=6.5, 1H), 7.49 (s, 1H).

reactant | 4-bromo-3-methylbenzoic acid | 32.6 mmol, 7.0 g | BrC1=C(C=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | oxalyl chloride | 7.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | thiosemicarbazide | 81.4 mmol, 7.5 g | NNC(=S)N | CH5N3S
reactant | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | sodium hydroxide | [OH-].[Na+]
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | dimethyl formamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-Amino-5-(4-bromo-3-methylphenyl)-1,2,4-thiadiazole | 3.7 g | NN1SC(=NC1)C1=CC(=C(C=C1)Br)C | C9H10BrN3S
